US03987047
8-Chloro-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester hydrochloride was prepared from 8-chloro-1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline and ethyl chloroformate analogous to Example 155.

reactant | 8-chloro-1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline | ClC=1C=CC=2C(=C3C(=NC2C1)CCNCC3)C | C14H15ClN2
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 8-Chloro-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester hydrochloride | Yield: 70% | Cl.C(C)OC(=O)N1CCC2=NC=3C=C(C=CC3C(=C2CC1)C)Cl | InChI=1S/C17H19ClN2O2.ClH/c1-3-22-17(21)20-8-6-14-11(2)13-5-4-12(18)10-16(13)19-15(14)7-9-20;/h4-5,10H,3,6-9H2,1-2H3;1H
